US07799823B2
Preparation of N-sec-butyl-2-(4-cyano-3-trifluoromethyl-phenoxy)-4-hydroxy-3,3-dimethyl-butyramide
To a stirring solution comprised of (+)-4-(4,4-dimethyl-2-oxo-tetrahydro-furan-3-yloxy)-2-trifluoromethyl-benzonitrile (1.345 g; 4.495 mmol) in tetrahydrofuran (5 mL) at ambient temperature under a nitrogen atmosphere is added (S)-(+)-sec-butylamine (0.4931 g; 6.742 mmol.) The reaction mixture is stirred for eight days. The reaction mixture is diluted with ethyl acetate and washed with 1N aqueous hydrochloric acid and with a brine solution. The organic phase is dried over anhydrous magnesium sulfate and is concentrated in vacuo to afford 1.633 of a white solid as a mixture of diastereomers; HPLC UV purity: 94% (two diastereomers.)

reactant | (+)-4-(4,4-dimethyl-2-oxo-tetrahydro-furan-3-yloxy)-2-trifluoromethyl-benzonitrile | 4.495 mmol, 1.345 g | CC1(C(C(OC1)=O)OC1=CC(=C(C#N)C=C1)C(F)(F)F)C | C14H12F3NO3
reactant | (S)-(+)-sec-butylamine | 6.742 mmol, 0.4931 g | [C@H](C)(CC)N | C4H11N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-sec-butyl-2-(4-cyano-3-trifluoromethyl-phenoxy)-4-hydroxy-3,3-dimethyl-butyramide | C(C)(CC)NC(C(C(CO)(C)C)OC1=CC(=C(C=C1)C#N)C(F)(F)F)=O | C18H23F3N2O3
